US09029405B2
Step 2: (2S)-2-(3-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenethylamino)propanoic acid
The title compound was prepared following the protocol used for Example 91, Steps 2 and 3, but starting from (3-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)ethanol (84 mg, 0.2 mmol) and (S)-tert-butyl 2-aminopropanoate (87 mg, 0.6 mmol). It was isolated as a white solid (133 mg, 96%). 1H NMR: (DMSO-d6, 400 MHz) δ 8.57 (s, 1H), 8.53 (d, J=8.1 Hz, 1H), 8.07-8.03 (m, 2H), 7.69 (d, J=8.0 Hz, 1H), 7.65-7.53 (m, 2H), 7.44-7.37 (m, 2H), 7.33 (td, J=4.0, 2.1 Hz, 1H), 7.20 (d, J=7.6 Hz, 1H), 3.31 (q, J=7.2 Hz, 2H), 3.18-3.02 (m, 3H), 2.06 (s, 3H), 1.33 (d, J=7.0 Hz, 3H). LC/MS (Method B): 496 (M+H)+. HPLC (Method G) Rt 3.24 min (Purity: 99.1%).

reactant | (3-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenyl)ethanol | 0.2 mmol, 84 mg | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=C(C=CC1)C(C)O)C(F)(F)F | C24H19F3N2O2
reactant | (S)-tert-butyl 2-aminopropanoate | 0.6 mmol, 87 mg | N[C@H](C(=O)OC(C)(C)C)C | C7H15NO2
product | (2S)-2-(3-(5-(2′-methyl-2-(trifluoromethyl)biphenyl-4-yl)-1,2,4-oxadiazol-3-yl)phenethylamino)propanoic acid | CC1=C(C=CC=C1)C1=C(C=C(C=C1)C1=NC(=NO1)C=1C=C(CCN[C@H](C(=O)O)C)C=CC1)C(F)(F)F | C27H24F3N3O3
